US09145438B2
Step 1: 7-((3aR,4R,6R,6aR)-6-(azidomethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine
A solution of ((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methanol (2.83 g, 6.20 mmol) and triphenylphosphine (2.28 g, 8.68 mmol) in dry tetrahydrofuran (32 mL) was cooled at 0° C. in an ice/water bath. Diisopropyl azodicarboxylate (1.71 mL, 8.68 mmol) was added dropwise, followed by a solution of diphenylphosphonic azide (1.87 mL, 8.68 mmol) in tetrahydrofuran (5.3 mL, 66 mmol). Upon addition of the DPPA solution, a white milky precipitate formed. After about 30 minutes, the reaction mixture was allowed to warm to room temperature and stir overnight. After 24 h, HPLC indicated that all the starting material had been consumed. The reaction mixture was concentrated to about ½ the original volume and purified by flash chromatography (175 g silica gel, 10-55% EA/hept) to yield the title compound (2.49 g, 83%) as a slightly yellow stiff foam: MS (ESI+) for C23H27N7O5 m/z 482.2 (M+H)+; (ESI−) for C23H27N7O5 m/z 480.1 (M+H)−, m/z 526.1 (M+CO2H)−; HPLC purity 97% (ret. time, 3.64 min).

reactant | ((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methanol | 6.20 mmol, 2.83 g | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3O[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CO)C=CC(=C1)OC | C23H28N4O6
reactant | triphenylphosphine | 8.68 mmol, 2.28 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 8.68 mmol, 1.71 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | diphenylphosphonic azide | 8.68 mmol, 1.87 mL | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | DPPA | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | tetrahydrofuran | 32 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 66 mmol, 5.3 mL | O1CCCC1 | C4H8O
product | 7-((3aR,4R,6R,6aR)-6-(azidomethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 2.49 g, 83% | N(=[N+]=[N-])C[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC | C23H27N7O5
